US04716178
12.0 g (0.038 mole) of 4-anilino-2,6-di-t-butylphenol was added to a 55° C. melt of 12.0 g (0.105 mole) of glutaric anhydride. The reaction warmed to 90° C. during the addition. The reaction was allowed to cool to 50° C., and was then maintained at that temperature for 3 hours. Thereafter, the mixture was heated briefly to 80° C. and allowed to cool to room temperature. The reaction mass was ground to a powder and the powder was heated in water. This cloudy solution was allowed to cool, and was then basified with dilute sodium hydroxide, extracted twice with diethyl ether, and acidified with dilute hydrochloric acid. The resulting precipitate was collected, dried and recrystallized from a mixture of ethanol and water to give 8.9 g of white crystalline 5-(3,5-di-t-butyl-4-hydroxy-N-phenylanilino)-5-oxopentanoic acid, m.p. 168.5°-169° C. Analysis: Calculated for C25H33NO4 :% C, 73.0; % H, 8.1; % N, 3.4; Found: % C, 73.6; % H, 8.1; % N, 3.4.

reactant | 4-anilino-2,6-di-t-butylphenol | 0.038 mole, 12.0 g | N(C1=CC=CC=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C20H27NO
reactant | glutaric anhydride | 0.105 mole, 12.0 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(3,5-di-t-butyl-4-hydroxy-N-phenylanilino)-5-oxopentanoic acid | 8.9 g | C(C)(C)(C)C=1C=C(N(C2=CC=CC=C2)C(CCCC(=O)O)=O)C=C(C1O)C(C)(C)C | C25H33NO4
